US07544697B2
Platinum (IV) oxide (4 g) was added to a solution of 1-(4-aminobutyl)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine (approximately 24 mmol, prepared as described in Part A of Examples 349-453) in trifluoroacetic acid (80 mL), and the mixture was shaken under hydrogen pressure (50 psi, 3.4×105 Pa) for two days and subsequently filtered through a layer of CELITE filter agent. The filter cake was washed with methanol, and the filtrate was concentrated under reduced pressure. Water (10 mL) was added, and the resulting solution was adjusted to pH 14 with the addition of 50% aqueous sodium hydroxide. The resulting mixture was extracted with dichloromethane, and the extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 1-(4-aminobutyl)-2-ethyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine.

reactant | 1-(4-aminobutyl)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine | NCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
solvent | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum (IV) oxide | 4 g | [Pt](=O)=O
product | 1-(4-aminobutyl)-2-ethyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine | NCCCCC=1N(N=C2C(=NC=3CCCCC3C21)N)CC | C16H25N5
